US07504404B2
N-Hydroxy-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxamidine
A stirred mixture of 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile [CAS-No. 851262-50-5] (2.0 g, 5.61 mmol), hydroxylamine hydrochloride (0.78 g, 11.2 mmol) and potassium carbonate (2.33 g, 16.8 mmol) in ethanol (100 ml) was heated under reflux conditions for 3 h. After the reaction mixture reached room temperature the precipitate was collected by filtration and washed with ethanol and ethyl acetate. The combined filtrates were evaporated and the crude product purified by flash chromatography on silica gel (ethyl acetate/heptane) to yield the title compound (1.51 g, 69%) as an orange solid. MS (ISP) 389.9 [(M+H)+]; mp 252° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 5.61 mmol, 2.0 g | FC(C1=CC(=NC=2N1N=CC2C#N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H6F6N4
reactant | hydroxylamine hydrochloride | 11.2 mmol, 0.78 g | Cl.NO
reactant | potassium carbonate | 16.8 mmol, 2.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-Hydroxy-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxamidine | 1.51 g, 69% | ONC(=N)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C15H9F6N5O
